US05204346
To a solution of 6-chloro-3-phenylsulfonylpyridazine (8.4 g) bis(triphenylphosphine)palladium(II) chloride (98%; 0.24 g), copper(I) iodide (95%; 63 mg), and triethylamine (9.2 ml) in N,N-dimethylformamide (84 ml) was added phenylacetylene (4.7 ml), and the mixture was stirred for 0.5 hour at 80° C. After being cooled to room temperature, water (168 ml) was added to the reaction mixture. The precipitate formed was collected, washed with water, and dried. Recrystallization of the crude product from a mixture of diisopropyl ether and acetone (2:1) gave 6-(2-phenylethynyl)-3-phenylsulfonylpyridazine (5.5 g). After the mother liquor was concentrated in vacuo, the residue was triturated with acetone. The precipitate was collected and dried to give a second crop of the pure material (2.0 g).

reactant | 6-chloro-3-phenylsulfonylpyridazine | 8.4 g | ClC1=CC=C(N=N1)S(=O)(=O)C1=CC=CC=C1 | C10H7ClN2O2S
reactant | triethylamine | 9.2 ml | C(C)N(CC)CC | C6H15N
reactant | phenylacetylene | 4.7 ml | C1(=CC=CC=C1)C#C | C8H6
reactant | water | 168 ml | O | H2O
solvent | N,N-dimethylformamide | 84 ml | CN(C=O)C | C3H7NO
catalyst | copper(I) iodide | 63 mg | [Cu]I
product | 6-(2-phenylethynyl)-3-phenylsulfonylpyridazine | 5.5 g | C1(=CC=CC=C1)C#CC1=CC=C(N=N1)S(=O)(=O)C1=CC=CC=C1 | C18H12N2O2S
